US04745229
1.15 g (3.99 mmols) of 6-chloro-3,7-dimethyl-2,7-octadienyl acetate (purity: 80%), 0.91 g (6 mmols) of sodium iodide and 1.36 g (10 mmols) of N-methylmorpholine N-oxide (monohydrate) were placed in a flask, to which was added 5 ml of N,N-dimethylformamide. The mixture was agitated at 50° C. for 4 hours. After completion of the reaction, 10 ml of water was added to the reaction mixture, followed by extraction twice each with 70 ml of diethyl ether. The resulting extract was washed with each 20 ml of 3% sulfuric acid, a saturated sodium hydrogen carbonate aqueous solution and a 10% sodium sulfite aqueous solution, and dried with magnesium sulfate. After drying, the solvent was removed by distillation from the solution and the resulting residue was purified by column chromatography using silica gel [eluent: ethyl acetate/hexane (volume by ratio)=1/9-1/3], thereby obtaining 0.627 g of 8-acetoxy-2,6-dimethyl-2,6-octadienal. Yield: 75%. The results of an instrumental analysis of the 8-acetoxy-2,6-dimethyl-2,6-octadienal are as follows.

reactant | 6-chloro-3,7-dimethyl-2,7-octadienyl acetate | 3.99 mmols, 1.15 g | C(C)(=O)OCC=C(CCC(C(=C)C)Cl)C | C12H19ClO2
reactant | sodium iodide | 6 mmols, 0.91 g | [I-].[Na+]
reactant | N-methylmorpholine N-oxide | 10 mmols, 1.36 g | C[N+]1(CCOCC1)[O-] | C5H11NO2
reactant | N,N-dimethylformamide | 5 ml | CN(C=O)C | C3H7NO
solvent | water | 10 ml | O | H2O
product | 8-acetoxy-2,6-dimethyl-2,6-octadienal | 0.627 g, Yield: 75% | C(C)(=O)OCC=C(CCC=C(C=O)C)C | C12H18O3
